US07754737B2
2-(Trimethylsilyl)ethyl 3-(3,3-difluorocyclobutyl)-1-hydroxypropan-2-ylcarbamate (240 mg, 0.776 mmol) was dissolved in CH2Cl2 (4 mL) and the solution was cooled to 0° C. DIEA (301 mg, 2.32 mmol, 3.0 equiv) was added followed by MsCl (133 mg, 1.16 mmol, 1.5 equiv) and the mixture was stirred for 30 min at 0° C. LC-MS analysis showed consumption of the alcohol and formation of the desired mesylate. The reaction was quenched by addition of aq citric acid (10% by weight). The layers were separated and the aqueous phase was extracted with additional CH2Cl2. The combined organic layers were dried over Na2SO4, filtered and solvent was removed. The residue was taken up in methylamine solution (30 wt % in ethanol, 10 mL). Methanol was added dropwise to aid dissolution. The mixture was divided into three 4 mL portions. Each portion was separately heated to 150° C. for 7 min in a CEM microwave reactor. The four reaction mixtures were combined and volatile materials were removed. The residue was dissolved in acetonitrile (7 mL) and 1.0 M aq NaOH (2.0 mL) was added, followed by Boc2O (186 mg, 0.854 mmol, 1.1 equiv). After 1 h starting amine was still observed by LC-MS and additional Boc2O (1.1 equiv) was added. After 1 h all the amine was converted into the Boc derivative. The solvent was removed in vacuo and the residue was taken up in EtOAc and water. The layers were separated and the organic layer was washed with sat'd aq NaHCO3, brine and evaporated. The diamine was purified by flash chromatography on 12 g of silica, eluting with a 0 to 50% EtOAc in hexanes gradient. The fractions which stained with ninhydrin were combined and evaporated to yield 2-(2-(trimethylsilyl)ethoxycarbonylamino)-1-(3,3-difluorocyclobutyl)-3-(N-(t-butoxycarbonyl)-N-methylamino)-propane (56 mg, 15%) of the deprotected amine. 1H and 19F NMR were consistent with the desired product.

reactant | 2-(Trimethylsilyl)ethyl 3-(3,3-difluorocyclobutyl)-1-hydroxypropan-2-ylcarbamate | 0.776 mmol, 240 mg | FC1(CC(C1)CC(CO)NC(OCC[Si](C)(C)C)=O)F | C13H25F2NO3Si
reactant | DIEA | 2.32 mmol, 301 mg, 3.0 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | MsCl | 1.16 mmol, 133 mg, 1.5 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | Boc2O | 0.854 mmol, 186 mg, 1.1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 1.1 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-(trimethylsilyl)ethoxycarbonylamino)-1-(3,3-difluorocyclobutyl)-3-(N-(t-butoxycarbonyl)-N-methylamino)-propane | 56 mg, 15% | C[Si](CCOC(=O)NC(CC1CC(C1)(F)F)CN(C)C(=O)OC(C)(C)C)(C)C | C19H36F2N2O4Si
